US07320834B2
The synthesis was carried out according to the methods described in (a) Labadie, J. W.; Tueting, D.; Stille, J. K. J. Org. Chem. 1983, 48, 4634 and (b) Lappert, M. F.; Jones, K. J. Organomet. Chem. 1965, 3, 295. A mixture of tributyltin hydride (5.82 g, 20.0 mmole), phenylacetylene (1.95 g, 19.0 mmole), and 2,2′-azobis(isobutyronitrile) (0.14 g, 0.085 mmole) was slowly heated to 50° C., followed by stirring for 24 hours. Next, the mixture was cooled to room temperature and filtered by a Celite pad to remove the white precipitate. The filtrate was distilled to obtain 6.50 g of tributyl[(E)-2-phenyl-1-ethenyl]stannane. Yield: 84%.

reactant | tributyltin hydride | 20.0 mmole, 5.82 g | C(CCC)[SnH](CCCC)CCCC
reactant | phenylacetylene | 19.0 mmole, 1.95 g | C1(=CC=CC=C1)C#C | C8H6
catalyst | 2,2′-azobis(isobutyronitrile) | 0.085 mmole, 0.14 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | tributyl[(E)-2-phenyl-1-ethenyl]stannane | 6.50 g, Yield: 84% | C(CCC)[Sn](\C=C\C1=CC=CC=C1)(CCCC)CCCC | InChI=1S/C8H7.3C4H9.Sn/c1-2-8-6-4-3-5-7-8;3*1-3-4-2;/h1-7H;3*1,3-4H2,2H3;
